US06362177B1
A mixture of 4-[{N-(2-(tert-butoxycarbonylamino)-4, 5-difluorobenzoyl)glycyl}aminomethyl]piperidine (0.050 mmol), 5-(bromomethyl)benzo[c]furazan (0.75 mmol), (piperidinomethyl)polystyrene (2.6-2.8 mmol/g, 60 mg, 0.15 mmol), methanol (0.2 mL), acetonitrile (1.0 mL), and chloroform (0.50 mL) was stirred at 50° C. overnight. The mixture was cooled to room temperature, loaded onto Varian™ SCX column, and washed with CH3OH (5 mL×2). Product was eluted off using 2 N NH3 in CH3OH (5 mL) and concentrated. To the resulting material were added chloroform (1.5 mL) and phenyl isocyanate (0.075 mL) and the solution was stirred at room temperature for 1 h, loaded onto Varian™ SCX column, and washed with CH3OH (5 mL×2). Product was eluted off using 2 N NH3 in CH3OH (5 mL) and concentrated. The residue was dissolved in methanol (1 mL) and 4 N HCl in dioxane (0.50 mL) was added. The solution was stirred at room temperature overnight and concentrated. The residue was dissolved in methanol, loaded onto Varian™ SCX column, washed with CH3OH (5 mL×2), and eluted off using 2 N NH3 in CH3OH (5 mL). Concentration and preparative TLC (SiO2, ethyl acetate/MeOH=5/1) afforded 4-[{N-(2-amino-4,5-difluorobenzoyl)glycyl}aminomethyl]-1-(benzo[c]furazan-5-yl)piperidine (Compound No. 2130) (3.6 mg, 16%): The purity was determined by RPLC/MS (87%); ESI/MS m/e 459.3 (M++H, C22H24F2N6O3).

reactant | 4-[{N-(2-(tert-butoxycarbonylamino)-4, 5-difluorobenzoyl)glycyl}aminomethyl]piperidine | 0.050 mmol | C(C)(C)(C)OC(=O)NC1=C(C(=O)NCC(=O)NCC2CCNCC2)C=C(C(=C1)F)F | C20H28F2N4O4
reactant | 5-(bromomethyl)benzo[c]furazan | 0.75 mmol | BrCC1=CC=2C(=NON2)C=C1 | C7H5BrN2O
reactant | (piperidinomethyl)polystyrene | 0.15 mmol, 60 mg | C1CCNCC1 | C5H11N
reactant | methanol | 0.2 mL | CO | CH4O
solvent | chloroform | 0.50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | acetonitrile | 1.0 mL | C(C)#N | C2H3N
product | 4-[{N-(2-amino-4,5-difluorobenzoyl)glycyl}aminomethyl]-1-(benzo[c]furazan-5-yl)piperidine | NC1=C(C(=O)NCC(=O)NCC2CCN(CC2)C2=CC=3C(=NON3)C=C2)C=C(C(=C1)F)F | C21H22F2N6O3
